US07550480B2
15d) 1,5-bis(2-chlorophenyl)-7-methoxy-2(1H)-quinolinone
1,5-bis(2-chlorophenyl)-7-methoxy-3,4-dihydro-2(1H)-quinolinone (0.85 g, 2.134 mmol) and manganese dioxide (5 g) were heated in chlorobenzene (50 ml) under reflux for 17 h. After cooling, the chlorobenzene was removed in vacuo, ethyl acetate (80 ml) added to the residue, then filtered through celite. The filtrate was evaporated in vacuo to afford the title compound as a yellow solid (0.82 g, 97%)

reactant | 1,5-bis(2-chlorophenyl)-7-methoxy-3,4-dihydro-2(1H)-quinolinone | 2.134 mmol, 0.85 g | ClC1=C(C=CC=C1)N1C(CCC2=C(C=C(C=C12)OC)C1=C(C=CC=C1)Cl)=O | C22H17Cl2NO2
solvent | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | manganese dioxide | 5 g | [O-2].[O-2].[Mn+4]
product | 1,5-bis(2-chlorophenyl)-7-methoxy-2(1H)-quinolinone | 0.82 g, 97% | ClC1=C(C=CC=C1)N1C(C=CC2=C(C=C(C=C12)OC)C1=C(C=CC=C1)Cl)=O | C22H15Cl2NO2
